US06319920B1
To a solution of piperidine-4-carboxylic acid (10 grams, 0.08 mole) in 3N sodium hydroxide (52 ml), water (48 ml), and dioxane (100 ml) was added di-tert-butyl dicarbonate (18.6 grams, 0.085 mole) and magnesium oxide (3.4 grams, 0.084 mole). The mixture was stirred at room temperature for 16 hours. The mixture was filtered and the filtrate was acidified with sodium bisulfate and extracted with dichloromethane. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure to give 1-(tert-butoxycarbonyl)piperidine-4-carboxylic acid as a white solid (17.7 g, 99%).

reactant | piperidine-4-carboxylic acid | 0.08 mole, 10 grams | N1CCC(CC1)C(=O)O | C6H11NO2
reactant | dioxane | 100 ml | O1CCOCC1 | C4H8O2
reactant | di-tert-butyl dicarbonate | 0.085 mole, 18.6 grams | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | magnesium oxide | 0.084 mole, 3.4 grams | [O-2].[Mg+2]
solvent | sodium hydroxide | 3N, 52 ml | [OH-].[Na+]
solvent | water | 48 ml | O | H2O
product | 1-(tert-butoxycarbonyl)piperidine-4-carboxylic acid | 17.7 g, 99% | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
